US07915300B2
3-(2-Isopropylamino-thiazol-4-yl)-benzoic acid
Isopropyl-thiourea (2.47 mmol) and 3-(2-Bromo-acetyl)-benzoic acid (2.47 mmol) were mixed in THF (12 mL). After stirring at room temperature for 5 minutes the mixture was heated to 80° C. for 2 hours. The volume was reduced to 5 mL and the mixture was then cooled to −20° C. and filtered. The solid was washed with a small amount of diethylether and dried. m/z=263.1 in MS ES+, which was characterized by hplc and MS and used in the next step without any further purification.

reactant | Isopropyl-thiourea | 2.47 mmol | C(C)(C)NC(=S)N | C4H10N2S
reactant | 3-(2-Bromo-acetyl)-benzoic acid | 2.47 mmol | BrCC(=O)C=1C=C(C(=O)O)C=CC1 | C9H7BrO3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 3-(2-Isopropylamino-thiazol-4-yl)-benzoic acid | C(C)(C)NC=1SC=C(N1)C=1C=C(C(=O)O)C=CC1 | C13H14N2O2S
